US08003783B2
STX783 2-Hydroxy-6a-methyl-4b,5,6,6a,8,10,10a,10b,11,12-decahydro-7,8-diaza-pentaleno[2,1-a]phenanthrene-9-carboxylic acid (CAB03053): ):
Palladium on charcoal (50 mg, 5% Pd) was added to a solution 2-Benzyloxy-6a-methyl-4b,5,6,6a,8,10,10a,10b,11,12-decahydro-7,8-diaza-pentaleno[2,1-a]phenanthrene-9-carboxylic acid ethyl ester(214 mg, 0.5 mmol, CAB03051) in THF (15 mL) and ethanol (15 mL). The resulting mixture was stirred under a hydrogen-atmosphere (balloon) for 24 hours, filtered through a 3 cm layer of celite and concentrated under reduced pressure. The residue was dried under high vacuum. Yield: 165 mg (98%) light grey solid. 1H-NMR (DMSO-d6, 400 MHz), δ: 0.92 (s, 3H, —CH3), 1.30-2.86 (m, 13H), 6.44 (d, J=2.3 Hz, 1H), 6.52 (dd, J=8.6, 2.3 Hz, 1H), 7.05 (d, J=8.6 Hz, 1H), 9.02 (s, 1H, —OH), 12.90 (bs, 2H, —COOH and NH). LRMS (FAB+): 176.0 (100), 329.1 (45, [M+H]+). HRMS (FAB+): 339.171135 C20H23N2O3requires 339.170868

reactant | 2-Benzyloxy-6a-methyl-4b,5,6,6a,8,10,10a,10b,11,12-decahydro-7,8-diaza-pentaleno[2,1-a]phenanthrene-9-carboxylic acid ethyl ester | 0.5 mmol, 214 mg | C(C)OC(=O)C1=C2CC3C(CCC4C=5C=CC(=CC5CCC34)OCC3=CC=CC=C3)(C2=NN1)C | C29H32N2O3
catalyst | Palladium on charcoal | 50 mg | [Pd] | Pd
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-Hydroxy-6a-methyl-4b,5,6,6a,8,10,10a,10b,11,12-decahydro-7,8-diaza-pentaleno[2,1-a]phenanthrene-9-carboxylic acid | OC=1C=CC=2C3CCC4(C(C3CCC2C1)CC1=C(NN=C14)C(=O)O)C | C20H22N2O3
